US06387928B1
Ethyl 1-cyclopropyl-1,4-dihydro-7-fluoro-8-chloro-6-nitro-4-oxo-quinoline-3-carboxylate
An amount of 0.088 g of ethyl 3-cyclopropylamino-2-(2,4-difluoro-3-chloro-5-nitro-benzoyl)acrylate is dissolved in 1 ml of ethyl acetate at 0° C . A quantity of 0.1 g of potassium carbonate is added. The desired product precipitates and is isolated by filtration.

reactant | ethyl 3-cyclopropylamino-2-(2,4-difluoro-3-chloro-5-nitro-benzoyl)acrylate | 0.088 g | C1(CC1)NC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1)[N+](=O)[O-])F)Cl)F)=O | C15H13ClF2N2O5
reactant | potassium carbonate | 0.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | Ethyl 1-cyclopropyl-1,4-dihydro-7-fluoro-8-chloro-6-nitro-4-oxo-quinoline-3-carboxylate | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)[N+](=O)[O-])=O)C(=O)OCC | C15H12ClFN2O5
